US07557238B2
Ethyl 4-cyano-3-(tert-butyldiphenylsilyloxy)-butanoate
Imidazole (6.5 g, 0.095 mol) was added to a chilled solution (−5 to −10° C.) of ethyl 4-cyano-3-hydroxybutanoate (10 g, 0.063 mol) in dichloromethane (100 ml) under stirring, followed by tert-butyl diphenyl silyl chloride (15.7 g, 0.057 mol). After stirring for 4 hours at room temperature, water (250 ml) was added to the reaction mixture and layers separated. The aqueous layer was extracted with dichloromethane (100 ml) and combined with the organic layer. The combined organic layer was evaporated to give title compound.

reactant | Imidazole | 0.095 mol, 6.5 g | N1C=NC=C1 | C3H4N2
reactant | ethyl 4-cyano-3-hydroxybutanoate | 0.063 mol, 10 g | C(#N)CC(CC(=O)OCC)O | C7H11NO3
reactant | tert-butyl diphenyl silyl chloride | 0.057 mol, 15.7 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | water | 250 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Ethyl 4-cyano-3-(tert-butyldiphenylsilyloxy)-butanoate | C(#N)CC(CC(=O)OCC)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C23H29NO3Si
